US04360530
48 g of 2,2-dimethyl-3-phenyl-2H-azirine and 18.5 g of p-aminobenzaldehyde were exposed to light for 2 hours in 6 liters of 1,4-dioxane in the manner described in Example 1. The solvent was then removed in a water-jet vacuum and the oily residue was chromatographed on silica gel, the elution was carried out with dichloromethane. The thus-obtained crude product (60 g) was stirred in ethanol for 2 hours at room temperature together with 1.8 g of sodium borohydride. The mixture was then diluted with water and extracted with dichloromethane. The crude product obtained after drying and evaporation of the organic phase was purified by pressure chromatography (6 bar) on silica gel with dichloromethane/ether (3:1), whereby there was obtained a product which, after 2-fold recrystallization from ethanol, yielded 5-(p-aminophenyl)-2,2-dimethyl-4-phenyl-3-oxazoline having a melting point of 162°-163° C. after drying for 4 hours 90° C. and 13 Torr.

reactant | 2,2-dimethyl-3-phenyl-2H-azirine | 48 g | CC1(N=C1C1=CC=CC=C1)C | C10H11N
reactant | p-aminobenzaldehyde | 18.5 g | NC1=CC=C(C=O)C=C1 | C7H7NO
reactant | sodium borohydride | 1.8 g | [BH4-].[Na+]
solvent | 1,4-dioxane | 6 liters | O1CCOCC1 | C4H8O2
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 5-(p-aminophenyl)-2,2-dimethyl-4-phenyl-3-oxazoline | NC1=CC=C(C=C1)C1C(=NC(O1)(C)C)C1=CC=CC=C1 | C17H18N2O
